US03984460
N-n-Octadecyl-3-(5-tert.-butyl-2,3-dimethyl-4-hydroxyphenyl)propionamide
A mixture consisting of 10.6 grams of methyl 3-(5-tert.-butyl-2,3-dimethyl-4-hydroxyphenyl)propionate and 11.9 grams of n-octadecylamine were heated together for 1 hour at 160° to 165° and then at 175° to 180° for 4 hours, the methanol of reaction being removed continuously by distillation. Crystallization from methanol yielded white crystals melting at 85° to 87° (Compound 35).

reactant | methyl 3-(5-tert.-butyl-2,3-dimethyl-4-hydroxyphenyl)propionate | 10.6 grams | C(C)(C)(C)C=1C(=C(C(=C(C1)CCC(=O)OC)C)C)O | C16H24O3
reactant | n-octadecylamine | 11.9 grams | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | methanol | CO | CH4O
product | N-n-Octadecyl-3-(5-tert.-butyl-2,3-dimethyl-4-hydroxyphenyl)propionamide | C(CCCCCCCCCCCCCCCCC)NC(CCC1=C(C(=C(C(=C1)C(C)(C)C)O)C)C)=O | C33H59NO2
